US06987114B1
1-(3,5-Dibromobenzyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 3,5-dibromobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (380 mg, yield: 70.6%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O2S
reactant | 3,5-dibromobenzyl bromide | BrC=1C=C(CBr)C=C(C1)Br | C7H5Br3
product | 1-(3,5-Dibromobenzyl)-5-isopropyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 380 mg, yield: 70.6% | BrC=1C=C(CN2C(NC(C(=C2SC2=CC(=CC(=C2)C)C)C(C)C)=O)=O)C=C(C1)Br | C22H22Br2N2O2S
